US07456164B2
2-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}-1H-imidazole
Dimethylsulphoxide (0.156 mL, 2.19 mmol) and dichloromethane (15 mL) were combined and cooled to −78° C. under nitrogen, oxalyl chloride (0.191 mL, 2.19 mmol) was added and the reaction mixture was stirred at −78° C. under nitrogen for 1 hour. A solution of 2-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}4,5-dihydro-1H-imidazole (0.314 g, 0.88 mol) in dichloromethane (15 mL) was added slowly. The reaction was stirred at −78° C. for 1 hour. Triethylamine (0.611 mL, 4.4 mmol) was then added and the reaction was stirred for a further hour. The reaction mixture allowed to warm to room temperature for 1 hour. The reaction mixture was diluted with dichloromethane (100 mL) and washed with an aqueous ammonia solution (20 mL). The organic was dried over sodium sulphate, filtered and concentrated in vacuo to provide a yellow oil. This was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (96:4:0.4 to 90:10:1) to provide a yellow oil, which was triturated with diethyl ether. A cream solid was filtered to provide the title compound (0.07 g, 22%). 1H NMR (400 MHz, CDCl3) δ 1.80 (m, 4H), 2.05 (m, 2H), 2.30 (m, 2H), 2.50 (m, 2H), 2.60-2.78 (m, 6H), 3.73 (m, 2H), 3.83 (m, 2H) (4.0 (t, 2H), 6.85 (d, 2H), 6.95 (s, 2H), 7.15 (d, 2H). HRMS ESI+ m/z 356.2327 [MH]+.

reactant | Dimethylsulphoxide | 2.19 mmol, 0.156 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 2.19 mmol, 0.191 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}4,5-dihydro-1H-imidazole | 0.88 mol, 0.314 g | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=1NCCN1 | C21H31N3O2
reactant | Triethylamine | 4.4 mmol, 0.611 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}-1H-imidazole | 0.07 g, 22% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=1NC=CN1 | C21H29N3O2
